US05834506
6,6-Bis-[2-(4-aminophenyl)ethyl]-3-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenylsulfanyl)-4-hydroxy-5,6-dihydro-pyran-2-one
The title compound was prepared as described in General Method 9 using 0.38 g (0.69 mmol) of (1,1-dimethylethyl)[(3,6-dihydro-4-hydroxy-6-oxo-2H-pyran-2,2-diyl)bis[2,1-ethanediyl-(4,1-phenylene)]biscarbamate prepared in Example OO, 0.35 g (0.96 mmol) of toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenyl) ester (prepared in Example FFF), 0.58 g (4.2 mmol) of K2CO3, and 5 mL of DMF. The reaction mixture was stirred overnight, and then poured into glacial acetic acid (5 mL) and EtOAc (20 mL). After standard workup, the residue was chromatographed on silica gel, eluting with 1:1 hexane:EtOAc, to give the BOC-protected intermediate. This material was dissolved in CH2 Cl2, cooled in an ice bath, and treated with a steady stream of gaseous HCl for 10 minutes. The solvent was evaporated. The residue was suspended in H2O which was then made basic to pH 11.5 with 10% NaOH and stirred for 20 minutes. The solution was made basic to pH 6.5 with HOAc and extracted with EtOAc (3×50 mL). The combined extracts were washed with brine, dried (MgSO4), and concentrated to give the title compound, m.p. 144°-146° C. 1H NMR (DMSO-d6) δ 1.43 (s, 9 H), 1.81 (s, 3 H), 1.95 (m, 4 H), 2.42 (m, partially obscured by DMSO, 4 H), 2.87 (br s, 2 H), 4.30 (s, 2 H), 4.90 (br s, 1 H), 6.45 (d, 4 H), 6.65 (s, 1 H), 6.80 (d, 4 H), 7.20 (s, 1 H).

reactant | (3,6-dihydro-4-hydroxy-6-oxo-2H-pyran-2,2-diyl)bis[2,1-ethanediyl-(4,1-phenylene)]biscarbamate | OC=1CC(OC(C1)=O)(CCC1=CC=C(C=C1)NC([O-])=O)CCC1=CC=C(C=C1)NC([O-])=O
reactant | toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenyl) ester | 0.96 mmol, 0.35 g | C(C)(C)(C)C1=C(C=C(C(=C1)CO)C)SS(=O)(=O)C1=CC=C(C=C1)C | C19H24O3S2
reactant | K2CO3 | 4.2 mmol, 0.58 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 6,6-Bis-[2-(4-aminophenyl)ethyl]-3-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenylsulfanyl)-4-hydroxy-5,6-dihydro-pyran-2-one | NC1=CC=C(C=C1)CCC1(CC(=C(C(O1)=O)SC1=C(C=C(C(=C1)C)CO)C(C)(C)C)O)CCC1=CC=C(C=C1)N | C33H40N2O4S
